US06340670B1
Diphenyl-acetic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester
The title compound was prepared as a white foam (0.289 g, 76%) from diphenyl-acetic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester using a procedure similar to Example 25, mp >99° C. (decomp.); 1H NMR (DMSO-d6) δ1.92 (s, 3H), 1.94 (s, 3H), 1.96 (s, 3H), 1.99 (s, 3H), 2.08 (s, 3H), 3.66 (t, J=9.9 Hz, 1H), 3.72-3.78 (m, 1H), 3.78 (t, J=9.0 Hz, 1H), 3.87 (t, J=9.7 Hz, 1H), 3.98-4.05 (m, 2H), 4.18-4.24 (m, 1H), 4.44 (ABq, J=12.7 Hz, Δδ=0.16, 2H), 4.61-4.67 (m, 2H), 4.80 (d, J=7.9 Hz, 1H), 4.88 (dd, J=4.2, 10.3 Hz, 1H), 5.16 (d, J=4.0 Hz, 1H), 5.22 (t, J=9.9 Hz, 1H), 5.29 (t, J=9.2 Hz, 1H), 5.31 (s, 1H), 5.60 (s, 1H), 6.99 (dd, J=1.5, 8.1 Hz, 1H), 7.20-7.25 (m, 2H), 7.27-7.35 (m, 8H), 7.35 (s, 5H), 7.43 (d, J=8.1 Hz, 1H), 7.59 (s, 1H), 9.51 (s, 1H); IR (KBr) 3410, 3070, 3025, 2930, 2860, 1755, 1690, 1600, 1525, 1450, 1410, 1375, 1240, 1140, 1055, and 1030 cm−1; mass spectrum [(+) FAB], m/z 974 (M+H)+, 996 (M+Na)+; Anal. Calcd. for C50H52ClNO17.1.25 H2O: C, 60.24; H, 5.51; N, 1.40, Found: C, 59.97; H, 5.10; N, 1.37.

reactant | diphenyl-acetic acid 6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-dihydroxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-4,5-dihydroxy-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)NC=1C=C(COC2C(C(C(C(O2)COC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)OC2C(C(C3OC(OCC3O2)C2=CC=CC=C2)O)O)O)O)C=CC1Cl | C42H44ClNO13
reactant | KBr | [K+].[Br-]
solvent | H2O | O | H2O
product | Diphenyl-acetic acid 4,5-diacetoxy-6-(3-acetylamino-4-chloro-benzyloxy)-3-(7,8-diacetoxy-2-phenyl-hexahydro-pyrano[3,2-d][1,3]dioxin-6-yloxy)-tetrahydro-pyran-2-ylmethyl ester | C(C)(=O)OC1C(C(OC(C1OC(C)=O)OCC1=CC(=C(C=C1)Cl)NC(C)=O)COC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)OC1C(C(C2OC(OCC2O1)C1=CC=CC=C1)OC(C)=O)OC(C)=O | C50H52ClNO17
